US07049438B2
Using an analogous procedure to that described in Example 12, 4-(2,4-dichloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline (0.109 g) was reacted with 1-tert-butoxycarbonylpiperidin-4-ylmethanol (0.065 g) to give 4-(2,4-dichloro-5-methoxyanilino)-7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)-5-tetrahydropyran-4-yloxyquinazoline (0.11 g).

reactant | 4-(2,4-dichloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline | 0.109 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)O)C=C(C(=C1)Cl)OC | C20H19Cl2N3O4
reactant | 1-tert-butoxycarbonylpiperidin-4-ylmethanol | 0.065 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
product | 4-(2,4-dichloro-5-methoxyanilino)-7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)-5-tetrahydropyran-4-yloxyquinazoline | 0.11 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C(=C1)Cl)OC | C31H38Cl2N4O6
